US07320993B1
6-(tosyl-amino)-hexylamine dihydrochloride
Batch size: 13.0 g (<35 mmol) N-[6-(tosyl-amino)-hexyl]-carbamic acid tert-butyl ester and 7.7 ml (93 mmol) concentrated hydrochloric acid in 100 ml ethanol.

reactant | N-[6-(tosyl-amino)-hexyl]-carbamic acid tert-butyl ester | <35 mmol, 13.0 g | C(C)(C)(C)OC(NCCCCCCNS(=O)(=O)C1=CC=C(C)C=C1)=O | C18H30N2O4S
reactant | hydrochloric acid | 93 mmol, 7.7 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 6-(tosyl-amino)-hexylamine dihydrochloride | Cl.Cl.S(=O)(=O)(C1=CC=C(C)C=C1)NCCCCCCN | InChI=1S/C13H22N2O2S.2ClH/c1-12-6-8-13(9-7-12)18(16,17)15-11-5-3-2-4-10-14;;/h6-9,15H,2-5,10-11,14H2,1H3;2*1H
